Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
seizure
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
The pt is a ___ year-old right-handed man with hx of partial
complex and GTC seizures and a left frontal cavernoma who
presents with episode concerning for seizure. The patient is
primarily ___ speaking and interview is conducted with phone
interpreter. The patient reports that he was in his USOH last
night when he started to feel weak all over. He went to lie down
and he then noticed that when he tried to speak to his
lady-friend, he had difficulty getting the words out. He could
understand what his friend was saying to him and knew what he
wanted to say but no speech came out. Then all 4 extremities
started to shake. He denies losing consciousness. This shaking
and difficulty speaking lasted a matter of minutes and resolved
when he was in the ambulance on his way to ___. He received IV ativan at ___ for concern of
seizure activity and then transferred here. 

He denies missing any medication doses, changes in medications,
or infectious symptoms. Denies recent head trauma. He reports
last seizure event was over a month ago. 

On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies focal weakness,
numbness, parasthesiae. No bowel or bladder incontinence or
retention. Denies difficulty with gait.

On ___ review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
PMH: kidney stones

PSH: jaw reconstruction in ___ for congenital craniofacial
defect

 
Social History:
___
Family History:
NC
 
Physical Exam:
Vitals: T: 97.6 P: 56 R: 16  BP:105/76  SaO2: 99% on RA
___: sleeping, easily arousable, cooperative, NAD. 
HEENT: AT, cranial asymmetry, poor dentition, MMM, no lesions in
oropharynx 
Neck: Supple, no nuchal rigidity 
Pulmonary: Lungs CTA bilaterally without R/R/W 
Cardiac: RRR, nl. S1S2, no M/R/G noted 
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted. 
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally. 
Skin: no rashes or lesions noted.

Neurologic: 
-Mental Status: Alert, oriented x 3.  Able to relate history
without difficulty.  Attentive, able to relay history of remote
and recent events without difficulty although often vague. 
Language is fluent with intact comprehension per interpretor.
Normal prosody. There were no paraphasic errors.  Pt. was able 
to
name both high and low frequency objects.  Speech mildly
dysarthric although pt reports it is at baseline. Able to follow
both midline and appendicular commands. There was no evidence of
apraxia or neglect.

-Cranial Nerves: 
I: Olfaction not tested.  
II: PERRL 3 to 2mm and brisk.  VFF to confrontation. Funduscopic
exam revealed no papilledema, exudates, or hemorrhages. 
III, IV, VI: EOMI without nystagmus.  Normal saccades. 
V: Facial sensation intact to light touch. 
VII: Asymmetric face (chronic), facial musculature symmetric
activation. .  
IX, X: Palate elevates symmetrically.  
XI: ___ strength in trapezii and SCM bilaterally. 
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. 
No adventitious movements. No asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  5   5    5  5     5     5   5 
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.

-DTRs: 
  Bi Tri ___ Pat Ach 
L  2  2    2    2   2 
R  2  2    2    2   2
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

Exam on discharge:
unchanged
 
Pertinent Results:
___ 04:35AM   PLT COUNT-210#
___ 04:35AM   NEUTS-55.4 ___ MONOS-6.4 EOS-2.1 
BASOS-0.6
___ 04:35AM   WBC-7.1 RBC-4.69 HGB-13.9* HCT-42.7 MCV-91 
MCH-29.7 MCHC-32.6 RDW-12.6
___ 04:35AM   CALCIUM-9.6 PHOSPHATE-4.8* MAGNESIUM-2.1
___ 04:35AM   estGFR-Using this
___ 04:35AM   GLUCOSE-102* UREA N-14 CREAT-0.8 SODIUM-140 
POTASSIUM-3.9 CHLORIDE-101 TOTAL CO2-30 ANION GAP-13
___ 11:15AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 11:15AM URINE  COLOR-Straw APPEAR-Hazy SP ___
___ 11:15AM URINE  GR HOLD-HOLD
___ 11:15AM URINE  HOURS-RANDOM
___ 02:18PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 02:18PM URINE  GR HOLD-HOLD
___ 02:18PM URINE  HOURS-RANDOM
___ 02:18PM URINE  HOURS-RANDOM

imaging studies:

EEG
IMPRESSION: This is a normal video-EEG monitoring session. There 
were 
several pushbutton entries capturing a prolonged event that was 
typical 
for his episodes. During the event EEG background activity was 
normal; 
however, the patient appeared anxious and had tachycardia as 
well as 
chest pain, dizziness, hyperventilation, and lip tremor. During 
the 
episode he was mostly quiet but was able to answer the questions 

appropriately and obey command. This event was most consistent 
with a 
panic attack. There were no epileptiform discharges or 
electrographic 
seizures. 

Ct HEAD
IMPRESSION: 1.3 cm left frontal lobe cavernoma, unchanged since 
___. No new hemorrhage, edema, or mass effect. 

 
Brief Hospital Course:
Mr. ___ was admitted to ___.

His AED- Keppra, was decreased and then discontinued completely. 


on ___ he had a 10minute event with sinus tachycardia into 
the 140s, profuse sweating, agitation and chest pain. He was 
given 1mg Ativan, and this episode promptly resolved. however, 
there was no electrographic evidence of seizure during this 
episode.

Given that this was a typical episode for his frequent 
outpatient events, it was determined that he was likely 
suffering from panic attacks rather than seizures. 

His keppra was restarted at his original dose and he was 
discharged home.

He will have a follow up with the Comprehensive epilepsy group. 
 
Discharge Medications:
1. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
2. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for coinstipation.  
3. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for pain or fever.  
4. levetiracetam 500 mg Tablet Sig: Two (2) Tablet PO BID (2 
times a day).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
panic attacks
non-epileptic seizures
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted to the hospital because of a concern for 
seizure. You were monitored for several days. You had an event 
that resembled a seizure but there was no evidence of abnormal 
discharges on your EEG.

We did NOT make changes to your medications. You should continue 
to take your medications as prescribed by your physicians. 

You will have a follow up scheduled with the Psychiatrist, Dr. 
___. 

You will also have a follow up with Dr. ___.

 
Followup Instructions:
___